US06198001B1
A 100 ml three-neck reactor equipped with a condenser and a thermometer was filled with 3.60 g (60 mmol) of urea, 1.50 g of potassium carbonate, 3.96 g (60 mmol) of potassium hydroxide, 0.3034 g of pyrene, and 25 g of DMSO. Then, the resulting mixture was heated to 90° C. while stirring under an oxygen atmosphere. Once the reaction temperature reached 90° C., a mixed solution of 2.48 g (20 mmol) of nitrobenzene and 5 g of DMSO was slowly added dropwise over a period of time of 5 to 10 minutes via a syringe. Then, a temperature was cautioned to keep 90±4° C. while adding a nitrobenzene solution. For a quantitative analysis, a sample was taken out and dissolved in 2.5 ml of ethyl acetate containing a small amount of water, and moisture was then removed from the resulting solution with magnesium sulfate (MgSO4). The quantitative analysis has shown that 4-nitrosoaniline and 4-nitroaniline were obtained in yields of 87 mole % and 12 mole %, respectively, based on nitrobenzene.

reactant | urea | 60 mmol, 3.60 g | NC(=O)N | CH4N2O
reactant | potassium carbonate | 1.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydroxide | 60 mmol, 3.96 g | [OH-].[K+]
reactant | pyrene | 0.3034 g | C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C16H10
reactant | nitrobenzene | 20 mmol, 2.48 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | ethyl acetate | 2.5 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | DMSO | 5 g | CS(=O)C | C2H6OS
solvent | DMSO | 25 g | CS(=O)C | C2H6OS
product | 4-nitroaniline | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
